US07211572B2
To a solution of 3-benzyloxy-5-(2,2-dimethylpropionyl)-1-(2-hydroxyethyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide (91 mg) in tetrahydrofuran (3 ml) was added N,N-diisopropylethylamine (0.187 ml) and the mixture was ice-cooled. Methanesulfonyl chloride (0.07 ml) was added at the same temperature over 30 min with stirring. After confirmation of the completion of the reaction by thin layer chromatography, 5% aqueous potassium hydrogen sulfate solution was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with brine, aqueous sodium hydrogen carbonate solution and brine, dried and concentrated. The obtained residue was dissolved in dimethylformamide (2 ml) and 60% sodium hydride (50 mg) was added by small portions with stirring at room temperature. After stirring for 30 min, the reaction mixture was ice-cooled and 5% aqueous potassium hydrogen sulfate solution was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried and concentrated. The obtained residue was purified by silica gel thin layer chromatography (ethyl acetate) to give 9-benzyloxy-2-(3-chlorobenzyl)-7-(2,2-dimethylpropionyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (44 mg).

reactant | 3-benzyloxy-5-(2,2-dimethylpropionyl)-1-(2-hydroxyethyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide | 91 mg | ClC=1C=C(CNC(=O)C=2N(C=C(C(C2OCC2=CC=CC=C2)=O)C(C(C)(C)C)=O)CCO)C=CC1 | C27H29ClN2O5
reactant | N,N-diisopropylethylamine | 0.187 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Methanesulfonyl chloride | 0.07 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 9-benzyloxy-2-(3-chlorobenzyl)-7-(2,2-dimethylpropionyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 44 mg | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(N(CC2)CC2=CC(=CC=C2)Cl)=O)C(C(C)(C)C)=O)=O | C27H27ClN2O4
